US04277395
The above named compound is prepared by treating 317 mg (1 mMole) of 3-[2-(1-aminoethyl)1,3-dithian-2-yl]-4,4,4-trifluoro-2-methylbutyric acid with 1.0 ml of 1 N HCl and 10 ml of acetonitrile followed by treatment with 2 ml of methyl iodide. The mixture is stirred at 25° C. for 48hours then diluted with water. The mixture is then thoroughly washed with ether and the aqueous phase is concentrated to afford 3-alanyl-4,4,4-trifluoro-2-methylbutyric acid.

reactant | 3-[2-(1-aminoethyl)1,3-dithian-2-yl]-4,4,4-trifluoro-2-methylbutyric acid | 1 mMole, 317 mg | NC(C)C1(SCCCS1)C(C(C(=O)O)C)C(F)(F)F | C11H18F3NO2S2
reactant | HCl | 1 N, 1.0 ml | Cl | ClH
reactant | acetonitrile | 10 ml | C(C)#N | C2H3N
reactant | methyl iodide | 2 ml | CI | CH3I
reactant | water | O | H2O
product | 3-alanyl-4,4,4-trifluoro-2-methylbutyric acid | N[C@@H](C)C(=O)C(C(C(=O)O)C)C(F)(F)F | C8H12F3NO3
